* File: nor4_dyn.pex.netlist.pex
* Created: Fri Feb 25 20:27:30 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR4_DYN%CLK 3 7 23
c1 23 0 0.06903f
c2 16 0 0.0258f
c3 7 0 0.0472983f
c4 3 0 0.0679383f
r5 16 20 6.88245
r6 16 19 6.88502
r7 12 16 9.6
r8 12 23 4.29
r9 7 20 86.625
r10 3 19 132.825
.ends

.subckt PM_NOR4_DYN%B 3 20
c1 20 0 0.07965f
c2 16 0 0.0301f
c3 3 0 0.0369783f
r4 12 16 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 16 3.88059
r8 1 3 63.525
.ends

.subckt PM_NOR4_DYN%Y 3 20
c1 20 0 0.07965f
c2 16 0 0.0301f
c3 3 0 0.0472983f
r4 12 16 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 16 3.88059
r8 1 3 86.625
.ends

.subckt PM_NOR4_DYN%A 3 20
c1 20 0 0.07965f
c2 12 0 0.0301f
c3 3 0 0.0369783f
r4 12 14 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 14 3.88059
r8 1 3 63.525
.ends

.subckt PM_NOR4_DYN%C 3 20
c2 20 0 0.07965f
c3 12 0 0.0301f
c4 3 0 0.0679383f
r5 12 14 5.39
r6 8 12 9.6
r7 8 20 4.29
r8 1 14 3.88059
r9 1 3 132.825
.ends

.subckt PM_NOR4_DYN%D 3 20
c1 20 0 0.07965f
c2 12 0 0.0301f
c3 3 0 0.0369783f
r4 12 14 5.39
r5 8 12 9.6
r6 8 20 4.29
r7 1 14 3.88059
r8 1 3 63.525
.ends

.subckt PM_NOR4_DYN%X 8 16 17 24 29 30 32 33 35 36 40
c8 40 0 0.08496f
c9 24 0 0.00217093f
c10 21 0 0.0334788f
c11 19 0 0.01767f
c12 17 0 0.0164288f
c13 16 0 0.0204581f
c14 12 0 0.0334788f
c15 9 0 0.00496f
c16 8 0 0.00867752f
c17 5 0 0.0111588f
r18 27 40 4.29
r19 22 35 5.30267
r20 22 36 5.30267
r21 21 22 10.4
r22 19 27 0.155109
r23 19 21 0.49998
r24 18 24 0.00880368
r25 17 19 0.0372635
r26 17 18 0.32
r27 15 24 0.0338756
r28 15 16 0.44
r29 13 32 5.30267
r30 13 33 5.30267
r31 12 13 10.4
r32 10 24 0.0338756
r33 10 12 0.49998
r34 8 16 0.0446983
r35 8 9 0.12
r36 6 29 6.02576
r37 6 30 6.02576
r38 5 6 10.8
r39 3 9 0.0446983
r40 3 5 0.14
.ends

.subckt PM_NOR4_DYN%GND 1 2 6 8 21 26 40
c7 26 0 0.00619876f
c8 24 0 0.00496f
c9 19 0 0.02232f
c10 17 0 0.0483575f
c11 11 0 0.136398f
c12 8 0 0.0481566f
c13 4 0 0.0343966f
c14 3 0 0.0215f
c15 2 0 0.0154766f
r16 26 27 9.6
r17 24 26 0.19
r18 19 33 0.01999
r19 19 21 0.23
r20 18 40 5.2204
r21 17 18 10.4
r22 15 24 0.0446983
r23 15 17 0.49998
r24 11 33 0.025
r25 11 33 0.031483
r26 11 21 0.045
r27 11 17 0.28002
r28 7 8 107.8
r29 4 8 4.81186
r30 4 6 5.775
r31 3 27 6.71385
r32 2 7 4.30221
r33 2 3 26.95
r34 1 33 10.8
.ends

.subckt PM_NOR4_DYN%VDD 1 20 38 40
c0 23 0 0.00991876f
c1 17 0 0.02232f
c2 16 0 0.059515f
c3 13 0 0.00991876f
c4 5 0 0.0768775f
r5 24 40 5.93359
r6 23 24 10.8
r7 17 33 0.01999
r8 16 20 0.01
r9 14 38 5.93228
r10 13 14 10.8
r11 5 16 0.0184246
r12 5 26 0.0184246
r13 5 33 0.025
r14 5 33 0.031483
r15 5 26 0.135
r16 5 23 0.12
r17 5 20 0.11
r18 5 17 0.12
r19 5 13 0.12
r20 1 5 10.4
r21 1 33 10.4
.ends

.subckt PM_NOR4_DYN%10 6 13 21 22 24 25 27
c4 20 0 0.00496f
c5 17 0 0.00991876f
c6 13 0 0.0247975f
c7 10 0 0.00991876f
c8 7 0 0.00496f
c9 6 0 0.0198375f
c10 3 0 0.00991876f
r11 18 27 5.22156
r12 17 18 10.4
r13 15 17 0.12002
r14 14 20 0.0338756
r15 13 15 0.0446983
r16 13 14 0.32
r17 11 24 5.30267
r18 11 25 5.30267
r19 10 11 10.4
r20 8 20 0.00880368
r21 8 10 0.12002
r22 6 20 0.0338756
r23 6 7 0.32
r24 4 21 5.30267
r25 4 22 5.30267
r26 3 4 10.4
r27 1 7 0.0446983
r28 1 3 0.12002
.ends

.subckt PM_NOR4_DYN%11 1 2
r0 1 2 7.5
.ends

